US08729078B2
In a 25 mL pear-shaped flask, 4-(2-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-3-formylpyridin-4-yl)-1-methyl-1H-pyrrole-2-carboxamide (28 mg, 62.6 μmol, Eq: 1.00) was combined with CH2Cl2 (3 ml) and MeOH (1 ml) to give a colorless solution. Sodium borohydride (4.73 mg, 125 μmol, Eq: 2.00) was added. The reaction mixture was stirred for 1 h. The reaction mixture was poured into EtOAc (25 mL) and extracted with sat NH4Cl (3×10 mL). The organic layers were dried over MgSO4 and concentrated in vacuo followed by lyophilization to give 4-[2-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-3-hydroxymethyl-pyridin-4-yl]-1-methyl-1H-pyrrole-2-carboxylic acid amide (14 mg, 50%) as a white solid. 1H NMR (DMSO-d6) δ ppm 8.52 (d, J=2.8 Hz, 1H), 8.46 (d, J=5.0 Hz, 1H), 7.90 (d, J=1.8 Hz, 1H), 7.77 (dd, J=13.3, 1.8 Hz, 1H), 7.55-7.72 (m, 1H), 7.52 (d, J=5.0 Hz, 1H), 7.49 (d, J=1.8 Hz, 1H), 7.23 (d, J=2.0 Hz, 1H), 7.04 (br. s., 1H), 4.88 (br. s., 1H), 4.29-4.57 (m, 2H), 3.91 (s, 3H), 1.39 (s, 9H); MS m/e 450.5 (M+H+).

reactant | 4-(2-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-3-formylpyridin-4-yl)-1-methyl-1H-pyrrole-2-carboxamide | 62.6 μmol, 28 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=NC=CC(=C1C=O)C=1C=C(N(C1)C)C(=O)N | C24H22FN5O3
reactant | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
reactant | MeOH | 1 ml | CO | CH4O
reactant | Sodium borohydride | 125 μmol, 4.73 mg | [BH4-].[Na+]
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 4-[2-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-3-hydroxymethyl-pyridin-4-yl]-1-methyl-1H-pyrrole-2-carboxylic acid amide | 14 mg, 50% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=NC=CC(=C1CO)C=1C=C(N(C1)C)C(=O)N | C24H24FN5O3
